US04487929
In a manner analogous to that described in Example 7(B) (b), from 7.75 g of 4-ethyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione and 3.7 g of methyl penta-2,4-dienoate there were obtained 6.49 g (59%) of methyl 2-ethyl-2,3,5,8-tetrahydro-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in the form of a white solid having a melting point of 96°-97° C. (from diethyl ether).

reactant | 4-ethyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione | 7.75 g | C(C)C1(C(NNC1=O)=O)CCOC1OCCCC1 | C12H20N2O4
reactant | methyl penta-2,4-dienoate | 3.7 g | C(C=CC=C)(=O)OC | C6H8O2
product | methyl 2-ethyl-2,3,5,8-tetrahydro-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 6.49 g, 59% | C(C)C1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)CCOC1OCCCC1 | C18H26N2O6
